US03984459
a. Methyl-(4-phenoxybutyl)-malonic acid diethyl ester
After the development of hydrogen was finished 30 g (1 mol) of a 80% suspension of sodium hydride in mineral oil were added portionwise to 191 g (1.1 mols) of methylmalonic acid diethyl ester in 300 ml of absolute toluene and 50 ml of dry dimethylformamide were added and after that, 252 g (1.1 mols) of 4-phenoxy-1-bromobutane (J.O.C. 27, 1290 (1962) were added. The mixture was refluxed for about 13 hours until the medium had a neutral reaction. It was worked up as in 4 a).

reactant | hydrogen | [H][H] | H2
reactant | sodium hydride | [H-].[Na+]
reactant | methylmalonic acid diethyl ester | 1.1 mols, 191 g | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | 4-phenoxy-1-bromobutane | 1.1 mols, 252 g | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl-(4-phenoxybutyl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(CCCCOC1=CC=CC=C1)C)=O | C18H26O5
